US06255494B1
Preparation of (RS) 2-(4-chlorophenoxymethyl)-4-[3-(piperidin-3-yl)propoxy]-1-[3-(piperidin-3-yl)propyl]benzimidazole
The title compound is prepared from (RS) 2-(4-chlorophenoxymethyl)-4-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole by standard deprotection techniques using trifluoroacetic acid.

reactant | (RS) 2-(4-chlorophenoxymethyl)-4-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCCCC3CN(CCC3)C(=O)OC(C)(C)C)C=C1 | C40H57ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (RS) 2-(4-chlorophenoxymethyl)-4-[3-(piperidin-3-yl)propoxy]-1-[3-(piperidin-3-yl)propyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CNCCC2)C=CC=C3OCCCC3CNCCC3)C=C1 | C30H41ClN4O2
